US07285557B2
3-methoxy-4-[(1-methyl-4-piperidinyl)oxy]aniline
To a solution of 4-[4-nitro-2-methoxyphenoxy]-1-methylpiperidine (2.17 g, 8.15 mmol, in ethanol (150 mL) was added 10% palladium on cabon (400 mg). The mixture was subjected to 1 atm hydrogen with stirring overnight. Removal of the catalyst by filtration and evaporation of the solvent yielded the product (1.75 g, 91%). 1H NMR (CDCl3) δ 1.81-2,04 (4H, m), 2.34 (5H, m), 2.81 (2H, m), 3.56 (2H, br s), 3.80 (3H, s), 4.04 (1H, s), 6.20 (1H, dd, J=2.7 Hz, J′=8.4 Hz), 6.29 (1H,d, J=2.5 Hz), 6.77 (1 H, d, J=8.3 Hz). LCMS m/z=237 (m+H+).

reactant | 4-[4-nitro-2-methoxyphenoxy]-1-methylpiperidine | [N+](=O)([O-])C1=CC(=C(OC2CCN(CC2)C)C=C1)OC | C13H18N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | palladium on cabon | 400 mg | [Pd] | Pd
product | 3-methoxy-4-[(1-methyl-4-piperidinyl)oxy]aniline | 1.75 g, 91% | COC=1C=C(N)C=CC1OC1CCN(CC1)C | C13H20N2O2
